US07850872B2
As shown in the following Reaction 2, 250 mg (1.32 mmol) of 4-trimethylsilylethynylaniline obtained in A of Example 1-1 was melted in 3 mL of hydrochloric acid at the temperature of 0° C., and 94 mg (1.37 mmol, 1.04 eq) of sodium nitrite was added thereto, and then the reaction solution was stirred for 1 hour. After completion of stirring, 280 mg (1.69 mmol, 1.28 eq) of potassium iodide was added to the reaction solution, and then the reaction solution was stirred at room temperature for 12 hours. Next, the reaction solution was extracted with ether 2 times and 1 time with 1M sodium chloride aqueous solutions 1 time. The organic solvent layer was dehydrated with magnesium sulfate, filtered, and then distilled under reduced pressure. The compound distilled under reduced pressure was purified with an alumina column chromatography (mobile phase: hexane) to obtain 360 mg of 4-trimethylsilylethynyl iodobenzene with the yield of 92%. NMR data of the obtained compound is as follows. [1H NMR (400 MHz, CDCl3): δ 0.23-0.27 (m, 9H), 7.16 (d, 2H), 7.69 (d, 2H)].

reactant | 4-trimethylsilylethynylaniline | 1.32 mmol, 250 mg | C[Si](C)(C)C#CC1=CC=C(N)C=C1 | C11H15NSi
reactant | sodium nitrite | 1.37 mmol, 94 mg, 1.04 eq | N(=O)[O-].[Na+]
reactant | potassium iodide | 1.69 mmol, 280 mg, 1.28 eq | [I-].[K+]
solvent | hydrochloric acid | 3 mL | Cl | ClH
product | 4-trimethylsilylethynyl iodobenzene | 360 mg, yield of 92% | C[Si](C)(C)C#CC1=CC=C(C=C1)I | C11H13ISi
